US08114867B2
68.i. 2-(benzhydryl-amino)-3-hydroxy-3-(6-methoxy-[1,5]naphthyridin-4-yl)-propionic acid methyl ester (mixture of diastereomers)
A mixture of Zn(OTf)2 (0.064 g, 0.17 mmol) and 6-methoxy-[1,5]naphthyridine-4-carbaldehyde (0.5 g, 2.6 mmol) and molecular sieves (4 Å, 0.66 g) in toluene (13 mL) at 0° C. was treated with (benzhydrylidene-amino)-acetic acid methyl ester (0.44 g, 1.7 mmol) and diallylamine (0.25 g, 1.7 mmol). The mixture was left at 4° C. over the weekend. The reaction was quenched by careful addition of Na2CO3 and filtered. The filtrate was diluted with EA and water and the 2 phases separated. The org. phase was dried over MgSO4 and concentrated. The residue was dissolved in MeOH (10 mL) and AcOH (0.175 g, 3 mmol) and NaCNBH3 (0.166 g, 2.6 mmol) was added. The mixture was stirred at rt overnight and partitioned between a NaHCO3 solution and EA. The org. phase was dried over MgSO4 and concentrated. Chromatography on SiO2 (Hex/EA 1:1) gave the title intermediate as a yellow oil (0.5 g, 64% yield).

reactant | 6-methoxy-[1,5]naphthyridine-4-carbaldehyde | 2.6 mmol, 0.5 g | COC=1N=C2C(=CC=NC2=CC1)C=O | C10H8N2O2
reactant | (benzhydrylidene-amino)-acetic acid methyl ester | 1.7 mmol, 0.44 g | COC(CN=C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C16H15NO2
reactant | diallylamine | 1.7 mmol, 0.25 g | C(C=C)NCC=C | C6H11N
reactant | AcOH | 3 mmol, 0.175 g | CC(=O)O | C2H4O2
reactant | NaCNBH3 | 2.6 mmol, 0.166 g | [BH3-]C#N.[Na+]
solvent | toluene | 13 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Zn(OTf)2 | 0.17 mmol, 0.064 g | C(F)(F)(F)S(=O)(=O)[O-].C(F)(F)(F)S(=O)(=O)[O-].[Zn+2]
solvent | EA | CC(OCC)=O | C4H8O2
product | 2-(benzhydryl-amino)-3-hydroxy-3-(6-methoxy-[1,5]naphthyridin-4-yl)-propionic acid methyl ester | 0.5 g, 64% yield | COC(C(C(C1=CC=NC2=CC=C(N=C12)OC)O)NC(C1=CC=CC=C1)C1=CC=CC=C1)=O | C26H25N3O4
